US07129237B2
8-fluoro-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine
THF (19.1 mL) was added to a flask containing 8-fluoro-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (2.11 g, 10.9 mmol). Dropwise over 10 minutes was added lithium aluminum hydride in 1M THF (48.9 mL, 48.9 mmol). The reaction mixture was heated to reflux for 5.5 hours, and then let cool to room temperature overnight. After 18 hours, no starting material was seen. The reaction was quenched with water, 15% sodium hydroxide and another portion of water. After the white precipitate was filtered off, THF was removed from the filtrate. The contents of the flask were then transferred to a separatory funnel using ethyl acetate and water, and extracted with ethyl acetate (3×). The combined organic extracts were washed with brine (1×) and then dried with magnesium sulfate, filtered and concentrated to give a yellow oil. Further purification (15% ammonia 2M solution in ethanol/ethyl acetate) yielded the desired compound.

reactant | 8-fluoro-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 10.9 mmol, 2.11 g | FC1=CC2=C(C(NCC(N2)=O)=O)C=C1 | C9H7FN2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 19.1 mL | C1CCOC1 | C4H8O
solvent | THF | 48.9 mmol, 1M, 48.9 mL | C1CCOC1 | C4H8O
product | 8-fluoro-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | FC1=CC2=C(CNCCN2)C=C1 | C9H11FN2
